US07714009B2
5-Amino-2-(mesitylamino)-N,N-dipropyl-1,3-benzothiazole-7-carboxamide
A mixture of 2-(mesitylamino)-5-nitro-N,N-dipropyl-1,3-benzothiazole-7-carboxamide (61 mg, 0.139 mmol) and 10% Pd on carbon (30 mg) in ethanol (10 ml) was hydrogenated for 4 h. The catalyst was removed by filtration through Celite. The filtrate was concentrated under vacuum. The residue was purified by chromatography eluting with 20% AcOEt in n-hexane to afford 40 mg of the title compound.

reactant | 2-(mesitylamino)-5-nitro-N,N-dipropyl-1,3-benzothiazole-7-carboxamide | 0.139 mmol, 61 mg | C1(=C(C(=CC(=C1)C)C)NC=1SC2=C(N1)C=C(C=C2C(=O)N(CCC)CCC)[N+](=O)[O-])C | C23H28N4O3S
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 30 mg | [Pd] | Pd
product | 5-Amino-2-(mesitylamino)-N,N-dipropyl-1,3-benzothiazole-7-carboxamide | 40 mg | NC=1C=C(C2=C(N=C(S2)NC2=C(C=C(C=C2C)C)C)C1)C(=O)N(CCC)CCC | C23H30N4OS
